US04032575
A solution of 5 g of α-chloro-2-benzyloxyacetophenone in 15 ml of methylene chloride is added dropwise to 10.5 g of 3,4-dimethoxyphenethylamine. The mixture is refluxed for one hour. Then, the mixture is treated in the same manner as described in Example 1-(a). 4 g of α-(3,4-dimethoxyphenethylamino)-2-benzyloxyacetophenone hydrochloride are obtained. M.p. 177° -180° C. (recrystallized from ethanol).

reactant | α-chloro-2-benzyloxyacetophenone | 5 g | ClC(C(=O)C1=CC=CC=C1)OCC1=CC=CC=C1 | C15H13ClO2
reactant | 3,4-dimethoxyphenethylamine | 10.5 g | COC=1C=C(CCN)C=CC1OC | C10H15NO2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | α-(3,4-dimethoxyphenethylamino)-2-benzyloxyacetophenone hydrochloride | 4 g | Cl.COC=1C=C(CCNC(C(=O)C2=CC=CC=C2)OCC2=CC=CC=C2)C=CC1OC | InChI=1S/C25H27NO4.ClH/c1-28-22-14-13-19(17-23(22)29-2)15-16-26-25(24(27)21-11-7-4-8-12-21)30-18-20-9-5-3-6-10-20;/h3-14,17,25-26H,15-16,18H2,1-2H3;1H
